US05869485
1.35 g of 5-(3-benzyloxyphenyl)-7-[3-(3-(1-imidazolyl)propoxy)phenyl]-4-aminopyrrolo[2,3-d]-pyrimidine are hydrogenated in a hydrogen atmosphere at normal pressure and about 40° C. for 16 h in 30 ml of methanol in the presence of 0.3 g of 5% palladium/carbon. After filtration through Celite, the solvent is stripped off and the residue is slurried in ether, filtered, slurried again in EA, filtered and dried. 5-(3-Hydroxyphenyl)-7-[3-(3-(1-imidazolyl)propoxy)phenyl]-4-aminopyrrolo[2,3-d]pyrimidine having an m.p. of 120°-122° C. is obtained.

reactant | 5-(3-benzyloxyphenyl)-7-[3-(3-(1-imidazolyl)propoxy)phenyl]-4-aminopyrrolo[2,3-d]-pyrimidine | 1.35 g | C(C1=CC=CC=C1)OC=1C=C(C=CC1)C1=CN(C=2N=CN=C(C21)N)C2=CC(=CC=C2)OCCCN2C=NC=C2 | C31H28N6O2
reactant | hydrogen | [H][H] | H2
solvent | methanol | 30 ml | CO | CH4O
catalyst | palladium/carbon | 0.3 g | [Pd] | Pd
product | 5-(3-Hydroxyphenyl)-7-[3-(3-(1-imidazolyl)propoxy)phenyl]-4-aminopyrrolo[2,3-d]pyrimidine | OC=1C=C(C=CC1)C1=CN(C=2N=CN=C(C21)N)C2=CC(=CC=C2)OCCCN2C=NC=C2 | C24H22N6O2
